US07259163B2
2-Vinyl-5-trifluoromethylpyridine
To a solution of vinylmagnesium bromide in THF (1M, 7.38 mL, 7.38 mmol) in THF (29 mL) was added anhydrous zinc bromide (1.66 g, 7.38 mmol) at −78° C. After one hour at this temperature, the mixture was warmed to room temperature. After one hour, tetrakis(triphenylphosphine)palladium(0) (147 mg) and 2-bromo-5-trifluoromethylpyridine (1 g, 4.42 mmol) were added and the mixture heated at 50° C. for 5.25 hours. The mixture was diluted with ammonium chloride solution (10%, 29 mL) and extracted with ethyl acetate (70 mL×2). The combined organic extracts were dried over magnesium sulphate, evaporated and purified by column chromatography (SPE column, silica), eluting with cyclohexane, followed by cyclohexane/ethyl acetate (95:5 v/v), then (9:1 v/v). This afforded the title compound.

reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | 2-bromo-5-trifluoromethylpyridine | 4.42 mmol, 1 g | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
solvent | THF | 29 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 29 mL | [Cl-].[NH4+]
catalyst | zinc bromide | 7.38 mmol, 1.66 g | [Br-].[Zn+2].[Br-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 147 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 7.38 mmol, 1M, 7.38 mL | C1CCOC1 | C4H8O
product | 2-Vinyl-5-trifluoromethylpyridine | C(=C)C1=NC=C(C=C1)C(F)(F)F | C8H6F3N
